US08039469B2
Step 1: Preparation of tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-chloro-1,3,5-triazin-2-yl)piperazine-1-carboxylate
To a solution of 8-oxa-3-azabicyclo[3.2.1]octane hydrochloride (0.49 g, 3.3 mmol) in water (18 mL) was added a suspension of tert-butyl 4-(4,6-dichloro-1,3,5-triazin-2-yl)piperazine-1-carboxylate (1.0 g, 3.0 mmol) in acetone (about 10 mL). The suspension was stirred magnetically while solid sodium carbonate (0.70 g, 6.6 mmol) was added in a single portion. The mixture was stirred for two hours while heating in a 70-75° C. in an oil bath. After allowing the mixture to cool to room temperature, the title compound was removed by filtration, washed with water, and dried under vacuum.

reactant | 8-oxa-3-azabicyclo[3.2.1]octane hydrochloride | 3.3 mmol, 0.49 g | Cl.C12CNCC(CC1)O2
reactant | tert-butyl 4-(4,6-dichloro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | 3.0 mmol, 1.0 g | ClC1=NC(=NC(=N1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C12H17Cl2N5O2
reactant | sodium carbonate | 6.6 mmol, 0.70 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 18 mL | O | H2O
solvent | acetone | about 10 mL | CC(=O)C | C3H6O
product | tert-butyl 4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-chloro-1,3,5-triazin-2-yl)piperazine-1-carboxylate | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)Cl)N2CCN(CC2)C(=O)OC(C)(C)C | C18H27ClN6O3
